US05892121
To 200 g (0.531 mol) of the triphenylphosphine oxide/sulfuric acid adduct in 1500 mL of chlorobenzene there were stirred in 1500 mL of water over a period of one hour. Following phase separation, the aqueous phase was extracted three times with 500 mL of chlorobenzene each time. Following the removal of the solvent there were obtained 146 g (97.5%) of triphenylphosphine oxide.

reactant | triphenylphosphine oxide sulfuric acid | 0.531 mol, 200 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O.S(O)(O)(=O)=O
solvent | chlorobenzene | 1500 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 1500 mL | O | H2O
product | triphenylphosphine oxide | 146 g, 97.5% | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
